US06838463B2
In 4.2 ml of tetrahydrofuran was suspended 0.12 g of sodium hydride (60% in oil), to which 0.8 ml of a tetrahydrofuran solution containing 0.5 g of 4-chloro-6-(2,3-difluorophenylamino)pyrimidine was slowly added dropwise with stirring at room temperature. The mixture was stirred at room temperature for 20 minutes, to which 0.8 ml of a tetrahydrofuran solution containing 0.48 g of iodoethane was slowly added dropwise at 0° C., followed by further stirring for 8 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with t-butyl methyl ether. The organic layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.23 g of 4-chloro-6-(N-ethyl-N-(2,3-difluorophenyl)amino)pyrimidine.

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 4-chloro-6-(2,3-difluorophenylamino)pyrimidine | 0.5 g | ClC1=NC=NC(=C1)NC1=C(C(=CC=C1)F)F | C10H6ClF2N3
reactant | iodoethane | 0.48 g | ICC | C2H5I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.8 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(N-ethyl-N-(2,3-difluorophenyl)amino)pyrimidine | 0.23 g | ClC1=NC=NC(=C1)N(C1=C(C(=CC=C1)F)F)CC | C12H10ClF2N3
